US08222245B2
2-[(1-Methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride
1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 76) (0.410 g, 0.860 mmol) was dissolved in 1,4-dioxane (1 ml). Added HCl (1 ml, 4.00 mmol) in dioxane (4M) and stirred at R.T. for 2 hours. Added ether, filtered and dried in the oven under vacuum at R.T. to give 0.26 g of white solid. 50 mg was purified by MDAP to give the title compound (13 mg) as a cream solid. δH (MeOD, 400 MHz): 1.44 (6H, d), 3.63 (2H, m), 4.33 (2H, m), 4.52 (2H, s), 4.92 (1H, m), 7.30 (1H, d), 7.43 (1H, d), 8.15 (1H, dd), 8.21 (1H, d), 8.38 (1H, dd), 8.45 (1H, d); MS (ES): C21H20N4O3 requires 376; found 377 [M+H]+.

reactant | 1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.860 mmol, 0.410 g | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C26H28N4O5
reactant | HCl | 4.00 mmol, 1 ml | Cl | ClH
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
product | 2-[(1-Methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride | 0.26 g | Cl.CC(C)OC1=C(C#N)C=C(C=C1)C1=NC(=NO1)C=1C=CC2=C(CNCCO2)C1 | InChI=1S/C21H20N4O3.ClH/c1-13(2)27-19-6-4-15(10-16(19)11-22)21-24-20(25-28-21)14-3-5-18-17(9-14)12-23-7-8-26-18;/h3-6,9-10,13,23H,7-8,12H2,1-2H3;1H
